US08685969B2
8. 4-(3-Amino-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxamide
A solution of benzyl 3-(7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate (0.1164 g, 0.179 mmol) and 10% Pd/C (0.019 g, 0.018 mmol) in methanol (6.7 mL) and tetrahydrofuran (2.2 mL) under hydrogen was stirred for 45 min. After purging with nitrogen, the reaction was filtered through a pad of CELITE® and rinsed with MeOH. The filtrate was concentrated in vacuo, dissolved in CH2Cl2 (75 mL) and washed with brine (25 mL). The organic layer was dried over MgSO4 and concentrated in vacuo to give the desired product (0.0782 g, 0.152 mmol, 85% yield) as a brick-red solid.

reactant | benzyl 3-(7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.179 mmol, 0.1164 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C=3C(=C(C=CC3)NC(OCC3=CC=CC=C3)=O)C)C(N)=O | C37H43N5O4Si
solvent | methanol | 6.7 mL | CO | CH4O
solvent | tetrahydrofuran | 2.2 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.018 mmol, 0.019 g | [Pd] | Pd
product | 4-(3-Amino-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.152 mmol, 0.0782 g, 85% yield | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CC(CC2)O[Si](C)(C)C(C)(C)C)C(=O)N)C | C29H37N5O2Si
